2180-11-12 06:09:00 Physician Resident Progress Note
Chief Complaint: 18 yoF with complicated neurologic history &
   demyelinating disease, hospital course complicated by b/l PE without
   hemodynamic compromise, as well as coag neg staph bactermia.
   Transferred to the ICU  for tachycardia to 160s and desaturations to
   mid 80's in setting of likley aggitation.
   24 Hour Events:
 MULTI LUMEN - START [**2180-11-11**] 01:30 PM
   out 7cm so unable to use
 MULTI LUMEN - STOP [**2180-11-11**] 05:12 PM
   out 7cm so unable to use
 MULTI LUMEN - START [**2180-11-11**] 05:33 PM
 EKG - At [**2180-11-12**] 05:03 AM
   -Pt lost access, L IJ was place.  Pt was actively seizing with low
   voltage, whole body convulsions.  Given 6mg IV ativan, improved motor
   activity.
   - Persisted having body convulsions which were not treated further
   unless pt appeared to be in distress.  Around 3:30 AM, she started
   moaning, with body shaking and facial twitching.  She was given 1mg IV
   morphine + zyprexa to reduce agitation and pain.
   - PTT was elevated at 120.9.  Heparin held for 60 min and dose reduced
   by 300. (500 per scale).
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2180-11-12**] 01:39 AM
   Infusions:
   Heparin Sodium - 1,500 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2180-11-11**] 08:02 PM
   Morphine Sulfate - [**2180-11-12**] 03:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-11-12**] 06:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.7
   HR: 127 (115 - 145) bpm
   BP: 133/73(87) {124/48(78) - 160/134(137)} mmHg
   RR: 29 (20 - 34) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 115.6 kg (admission): 115.8 kg
   Height: 64 Inch
             Total In:
                                                                  1,668 mL
                                                                  1,177 mL
   PO:
             TF:
                                                                    560 mL
                                                                    406 mL
   IVF:
                                                                    888 mL
                                                                    381 mL
   Blood products:
   Total out:
                                                                    855 mL
                                                                  1,470 mL
   Urine:
                                                                    855 mL
                                                                  1,470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    813 mL
                                                                   -293 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///32/
   Physical Examination
   Cardiovascular: General: obese, non-verbal, frequent twitching, has EEG
   leads on head with guaze wrap, not currently aggitated
   HEENT: NCAT, decent dentition, NG tube
   Lungs: decreased breath sounds anteriorly, no wheezes appreciated
   Cardio: rate regular, tachycardic, no m/r/g appreciated
   Abd: morbidly obese, + BS, soft, no HSM
   Neuro: intermittently responds to simple commands; at other times
   non-responsive but withdrawals to pain; CN grossly normal; 2+ reflexes
   throughout; tone normal.
   Psych: cannot assess due to MS
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   272 K/uL
   10.4 g/dL
   136 mg/dL
   0.6 mg/dL
   32 mEq/L
   4.2 mEq/L
   12 mg/dL
   100 mEq/L
   137 mEq/L
   31.6 %
   9.2 K/uL
        [image002.jpg]
                             [**2180-11-12**]  02:20 AM
   WBC
   9.2
   Hct
   31.6
   Plt
   272
   Cr
   0.6
   Glucose
   136
   Other labs: PT / PTT / INR:/120.8/, Ca++:8.5 mg/dL, Mg++:2.8 mg/dL,
   PO4:3.9 mg/dL
   Imaging: CT Chest: Stranding at puncture site and probably in the
   anterior mediastinum at the level of the thoracic inlet with perhaps a
   small amount of blood but no large
   hematoma. Small pericardial effusion and small right pleural effusion
   are
   new.
   CXR: Right IJ catheter with the tip terminating in the mid SVC. No
   Pneumothorax. NG
   tube in standard location.
   Microbiology: BCX from [**11-8**] pos for coag neg Staph.
   LP no growth
   Urine no growth
   Remainder of Blood cultures no growth.
   Assessment and Plan
 PULMONARY EMBOLISM (PE), ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEIZURE, WITH STATUS EPILEPTICUS
   18 yoF with complicated neurologic history & demyelinating disease,
   hospital course complicated by b/l PE without hemodynamic compromise,
   as well as coag neg staph bactermia.  Transferred to the ICU today for
   tachycardia to 160 and desaturations to mid 80's in setting of likley
   aggitation.
   .
   (#) TACHYCARDIA: has has sinus tach in the 120-130's since arriving tot
   he ICU; was briefly to the 150-160's when she was having a seizure and
   another time when her family was in the room.  Likely ST from PE's.  No
   evidence of volume depletion on exam or labs; going to restart tube
   feeds.  Anxiety may be contributing; on standing clonazepam.  Was
   bactermic, but on vanco without fever or WBC; no evidence now of
   uncontrolled infection driving HR.  Pain may also be contributing from
   general immobilization or some other process (pt non-verbal).  Last TSH
   nml on [**10-25**].
   -- f/u  repeat EKG in am
   -- no need for beta-blocker currently as sinus tach, likely
   compensatory
   -- cont clonazepam for anxiety; frequent reassurance may help though pt
   not able to speak back.
   -- cont tube feeds; low threshold for additional maintenance fluids,
   though will not start now
   -- consider pain control with low dose morphine PRN (though likely not
   primary driver of sinus tach)
   -- cont treatment of PE with heparin ggt; would consider rescanning for
   tx with thrombolytics if becomes hemodynamically unstable.
   -- consider repeating TSH (though would eb difficult to interpret in
   setting of acute illness)
   .
   (#) DESATURATION: resolved; in mid to upper 90's on room air; satted
   briefly while aggitated; tolerated placement of CVL while flat fairly
   well.  No evidence of PNA or extension of PE's currently.  Had another
   brief episode unsustained episode of desat to 60s unprovoked.
   -- cont to treat PE
   -- cont to monitor
   .
   (#) MS, ENCEPHALOPATHY: no clear cause; intermittently seizing; obvious
   CNS infections have been ruled out on LP; JCV and HIV also negative; sx
   been progressively getting worse since being here.  Possibly a delirium
   from hospitalization/pain/anxiety on top of underlying neuro process,
   though pt fairly young and not considered high risk for hospital
   delirium.  no gross elecrolyte or lab abnormalities.
   -- neuro wants repeat MRI under GA which cannot be scheduled until
   [**Name (NI) 501**] (pt requires general anesthesia)
   -- psych and neuro following
   -- zyprexa PRN for aggitation
   (#) PE's:
   -- on heparin ggt now that access has been re-established
   -- will need coumadin 3-6 months
   .
   (#) HTN: listed as a prior dx in H&P, thoguh not on home med list; BP
   has been ~150/80 since being in the ICU
   -- on captopril 6.25 TID
   -- might consider changing from ACE I (afterload reduction) to a CCB or
   other given risk of reflex tachycardia
   .
   (#) COAG NEG STAPH BACTERMIA: PICC was pulled yesterday; on vancomcyin
   (1750 mg IV BID); ID followed
   -- cont vanco for two week course; ? whether needs TTE
   -- will check trough before next 4th dose
   -- ID recs
   -- f/u pending cultures
   (#) SEIZURE: dilantin currently at tx levels; albumin normal.  Seizures
   seem to be the genralize tonic clonic type (witnessed during ICU
   stay).  Seizures are frequent movements small twitches or jerking
   movements of facial muscles or upper and lower extremities.
   -- cont dilantin 200/300
   -- ativan PRN for seizure with concern for injury
   -- seizure precautions
   -- neurology and psych following
   .
   (#) DEMYELINATING DISEASE NOS: being followed by neurology; does not
   have clear diagnosis
   -- neurology wanted repeat MRI under GA (given aggiation); per
   scheduling tech, next available is [**Name (NI) 501**] [**11-13**]
   -- continue solumderol 125 mg QID taper per neuro
   -- FSG QID + SSI PRN while on solumedrol
   .
   (#) ACCESS: ICU team placed left IJ CVL this evening; CXR verified line
   in place
   .
   (#) NUTRITION: restarting tube feeds via NG
   .
   (#) PPX: heparin ggt; protonix; on bowel regimen
   .
   (#) CODE: full
   .
   (#) CONTACT: parents; mother signed ICU consent on arrival to the ICU
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2180-11-11**] 04:00 PM 70 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2180-11-11**] 05:33 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2180-11-12 10:14:00 Physician Attending Progress Note
Chief Complaint: Seizures
   Desaturations, transient
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2180-11-11**] 01:30 PM
   out 7cm so unable to use
 MULTI LUMEN - STOP [**2180-11-11**] 05:12 PM
   out 7cm so unable to use
 MULTI LUMEN - START [**2180-11-11**] 05:33 PM
 EKG - At [**2180-11-12**] 05:03 AM
   Heparin drip restarted; held for supratherapeutic PTT overnight
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2180-11-12**] 08:25 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2180-11-11**] 08:02 PM
   Morphine Sulfate - [**2180-11-12**] 03:20 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Neurologic: Seizure
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2180-11-12**] 10:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.8
   HR: 132 (115 - 145) bpm
   BP: 152/87(101) {124/48(78) - 174/134(137)} mmHg
   RR: 35 (20 - 35) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 115.6 kg (admission): 115.8 kg
   Height: 64 Inch
             Total In:
                                                                  1,668 mL
                                                                  1,595 mL
   PO:
             TF:
                                                                    560 mL
                                                                    440 mL
   IVF:
                                                                    888 mL
                                                                    705 mL
   Blood products:
   Total out:
                                                                    855 mL
                                                                  1,770 mL
   Urine:
                                                                    855 mL
                                                                  1,770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    813 mL
                                                                   -175 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///32/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: No(t) Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Crackles :
   dependently)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.4 g/dL
   272 K/uL
   136 mg/dL
   0.6 mg/dL
   32 mEq/L
   4.2 mEq/L
   12 mg/dL
   100 mEq/L
   137 mEq/L
   31.6 %
   9.2 K/uL
        [image002.jpg]
                             [**2180-11-12**]  02:20 AM
   WBC
   9.2
   Hct
   31.6
   Plt
   272
   Cr
   0.6
   Glucose
   136
   Other labs: PT / PTT / INR:/117.6/, Ca++:8.5 mg/dL, Mg++:2.8 mg/dL,
   PO4:3.9 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM):  Likely postictal in setting of
   recurrent seizures, ?psychogenic component as movements do not always
   correspond to EEG activity.  Continue dilantin. Neurology following.
   Follow levels after reloading yesterday. Concerned for ability to
   protect her airway so will remain in the ICU.
 ATYPICAL MULTIPLE SCLEROSIS:  Neurology following with
   recommendations.
 SEIZURE, WITH STATUS EPILEPTICUS: As above.

 SINUS TACHYCARDIA:  Still concerned about component of anxiety; more
   emotionally labile overnight, crying.  Consider haldol.  Doesn't seem
   clinically dry.  Also has underlying PEs.  Sats stable, doubt recurrent
   PE.  If she becomes more labile or has noted desaturations will
   consider repeat scan to evaluate for recurrent PE.  Add nodal [**Doctor Last Name **].

 PULMONARY EMBOLISM:  Adjusting heparin dosing given elevated PTT.
   Repeat labs this afternoon.
 TRANSIENT DESTURATIONS:  Typically in setting of seizure-like
   activity, albeit doesn't happen with all observed movements.
 LINE INFECTION:  Being treated empirically with vanco albeit cultures
   growing coag negative staph.  Following levels.  Echo without evidence
   of vegetations.  ID following.
OPTIC NEURITIS:  Continues methylprednisolone for empiric treatment of
   optic neuritis.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2180-11-11**] 05:33 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2180-11-13 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2180-11-12**] 03:37 PM
   - TTE ordered
   - ID consulted re: switching to Naficillin for oxacillin sensitive
   coag. neg. staph, they recommend continuing Vancomycin
   - metoprolol 50 mg [**Hospital1 **] added for HTN and to help with rate control
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2180-11-12**] 11:15 PM
   Infusions:
   Heparin Sodium - 1,350 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2180-11-12**] 08:00 PM
   Lorazepam (Ativan) - [**2180-11-13**] 02:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-11-13**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.6
C (99.7
   HR: 128 (115 - 144) bpm
   BP: 162/95(108) {92/40(53) - 174/118(124)} mmHg
   RR: 34 (16 - 35) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 115.6 kg (admission): 115.8 kg
   Height: 64 Inch
             Total In:
                                                                  3,662 mL
                                                                    781 mL
   PO:
             TF:
                                                                  1,681 mL
                                                                    480 mL
   IVF:
                                                                  1,361 mL
                                                                    211 mL
   Blood products:
   Total out:
                                                                  4,610 mL
                                                                  1,280 mL
   Urine:
                                                                  4,610 mL
                                                                  1,280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -948 mL
                                                                   -499 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   Cardiovascular: Gen: NAD, generalized twitching
   RRR, no murmur
   CTAB
   No clubbing cyanosis/edema
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   282 K/uL
   9.7 g/dL
   120 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.2 mEq/L
   11 mg/dL
   103 mEq/L
   140 mEq/L
   30.3 %
   10.6 K/uL
         [image002.jpg]
                             [**2180-11-12**]  02:20 AM
                             [**2180-11-13**]  02:39 AM
   WBC
   9.2
   10.6
   Hct
   31.6
   30.3
   Plt
   272
   282
   Cr
   0.6
   0.6
   Glucose
   136
   120
   Other labs: PT / PTT / INR:14.0/87.6/1.2, Ca++:8.7 mg/dL, Mg++:2.7
   mg/dL, PO4:3.4 mg/dL
   Imaging: none
   Microbiology: [**11-8**] - Blood cultures pos for coag neg staph
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 PULMONARY EMBOLISM (PE), ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEIZURE, WITH STATUS EPILEPTICUS
   18 yoF with complicated neurologic history & demyelinating disease,
   hospital course complicated by b/l PE without hemodynamic compromise,
   as well as coag neg staph bactermia.  Transferred to the ICU for
   tachycardia to 160 and desaturations to mid 80's in setting of likley
   aggitation.
   (#) TACHYCARDIA: has  sinus tach in the 120-130's since arriving to the
   ICU; was briefly to the 150-160's when people are present or during
   seizure like activity.  Contributing to tachycardia are bilateral PEs,
   bacteremia, and baseline bacteria.  There is no evidence of volume
   depletion on exam or labs; Anxiety may be contributing; on standing
   clonazepam.  Was bactermic, but on vanco without fever or WBC.   Pain
   may also be contributing from general immobilization or some other
   process (pt non-verbal).  Last TSH nml on [**10-25**].
   -- metoprolol 50mg [**Hospital1 **] started for htn, uptitrate to goal BP
   -- cont clonazepam for anxiety; frequent reassurance may help though pt
   not able to speak back.
   --low threshold for additional maintenance fluids, though will not
   start now
   -- cont treatment of PE with heparin ggt
   (#) DESATURATION: resolved; in mid to upper 90's on room air; satted
   briefly while aggitated; tolerated placement of CVL while flat fairly
   well.  No evidence of PNA or extension of PE's currently.  Had another
   brief episode unsustained episode of desat to 60s unprovoked.
   -- cont to treat PE
   -- cont to monitor
   (#) MS, ENCEPHALOPATHY: no clear cause; intermittently seizing; obvious
   CNS infections have been ruled out on LP; JCV and HIV also negative; sx
   been progressively getting worse since being here.  Possibly a delirium
   from hospitalization/pain/anxiety on top of underlying neuro process,
   though pt fairly young and not considered high risk for hospital
   delirium.  no gross elecrolyte or lab abnormalities.
   -- neuro wants repeat MRI, will discuss with them when
   -- psych and neuro following
   -- zyprexa PRN for aggitation
   (#) PE's:
   -- on heparin ggt now that access has been re-established
   -- will need coumadin 3-6 months
   (#) HTN: listed as a prior dx in H&P, thoguh not on home med list; BP
   has been ~150/80 since being in the ICU
   -- on metoprolol 50 [**Hospital1 **], will uptitrate
   (#) COAG NEG STAPH BACTERMIA: PICC was pulled yesterday; on vancomcyin
   (1750 mg IV BID); ID followed
   -- cont vanco for two week course;  TTE today
   -- will check trough before next 4th dose
   -- ID recs
   -- f/u pending cultures
   (#) SEIZURE: dilantin currently at tx levels; albumin normal.  Seizures
   seem to be the genralize tonic clonic type (witnessed during ICU
   stay).  Seizures are frequent movements small twitches or jerking
   movements of facial muscles or upper and lower extremities.
   -- cont dilantin 200/300
   -- ativan PRN for seizure with concern for injury
   -- seizure precautions
   -- neurology and psych following
   (#) DEMYELINATING DISEASE NOS: being followed by neurology; does not
   have clear diagnosis
   -- neurology wanted repeat MRI under GA (given aggiation); per
   scheduling tech, next available is Monday [**11-13**]
   -- continue solumderol 125 mg QID taper per neuro
   -- FSG QID + SSI PRN while on solumedrol
   (#) ACCESS: ICU team placed left IJ CVL this evening; CXR verified line
   in place
   (#) NUTRITION: restarting tube feeds via NG
   (#) PPX: heparin ggt; protonix; on bowel regimen
   (#) CODE: full
   (#) CONTACT: parents; mother signed ICU consent on arrival to the ICU
   .
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2180-11-12**] 07:46 PM 70 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2180-11-11**] 05:33 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   CRITICAL CARE
   Present for the key portions of the resident
s history and exam. Agree
   substantially with assessment and plan as outlined during morning
   rounds.
   99.4      121     131/93
   Not interactive
   No visible sz activity
   No abnormal behaviors
   Chest
 clear
   WBC 10.6
   Plan is for elective intubation for good quality MRI. We are attempting
   to arrange for tomorrow.  No apparent sz activity this am. We are
   continuing Vanco for her Staph epi line infection. Echo shows no RV
   strain
 I think it is unlikely her tachycardia is related to her PE.
   Time spent 40 min
   Critically ill
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] [**Last Name (NamePattern1) **], MD
   on:[**2180-11-13**] 20:01 ------

2180-11-14 06:46:00 Physician Resident Progress Note
Chief Complaint: 18 yoF with complicated neurologic history &
   demyelinating disease, hospital course complicated by b/l PE without
   hemodynamic compromise, as well as coag neg staph bactermia.
   Transferred to the ICU  for tachycardia to 160 and desaturations to mid
   80's in setting of likley agitation and observation peri-intubation for
   procedure (MRI).
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2180-11-13**] 01:11 PM
   -ID: cont Vanco, Goal trough 15-20
   if febrile, check BCx, Ucx, UA, CXR, sputum, C.Diff
   -infectious etiologies for encephalopathy are pending
   -can't get MRI till Wednesday so will be intubated then . . . need to
   talk to OR/PACU floor manager/MRI about getting MRI done on Tuesday
   instead of Wednesday.
   -neuro+psych recs . . . nothing today
   -vanc trough was 14, so increased to 1500 mg q8
   -sent Ab for hypercoagulabilty for anti-phospholipid (anti-cardiolipin,
   lupus anticoagulant, anti-B2 microglobulin)
   -stopped zyprexa
   -was febrile mildly to 100.4 at night; was cultured yesterday so did
   not reculture
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2180-11-13**] 06:16 PM
   Infusions:
   Heparin Sodium - 1,350 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2180-11-13**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-11-14**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.7
C (99.8
   HR: 117 (94 - 131) bpm
   BP: 154/96(109) {112/63(72) - 169/110(173)} mmHg
   RR: 23 (16 - 36) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 115.3 kg (admission): 115.8 kg
   Height: 64 Inch
             Total In:
                                                                  2,234 mL
                                                                    154 mL
   PO:
             TF:
                                                                    896 mL
   IVF:
                                                                  1,027 mL
                                                                    154 mL
   Blood products:
   Total out:
                                                                  2,850 mL
                                                                    830 mL
   Urine:
                                                                  2,850 mL
                                                                    830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -616 mL
                                                                   -676 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   Cardiovascular: Gen: NAD, sleeping
   CAD: RRR, Nl S1, S2
   Pulm: CTAB
   Abd: soft, ND, NT +ABS
   Ext: no c/c/e, 2+ DP
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   332 K/uL
   9.7 g/dL
   121 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.6 mEq/L
   11 mg/dL
   99 mEq/L
   135 mEq/L
   30.4 %
   12.7 K/uL
        [image002.jpg]
                             [**2180-11-12**]  02:20 AM
                             [**2180-11-13**]  02:39 AM
                             [**2180-11-14**]  02:58 AM
   WBC
   9.2
   10.6
   12.7
   Hct
   31.6
   30.3
   30.4
   Plt
   272
   282
   332
   Cr
   0.6
   0.6
   0.6
   Glucose
   136
   120
   121
   Other labs: PT / PTT / INR:14.5/94.5/1.3, ALT / AST:67/22, Alk Phos / T
   Bili:49/0.2, Ca++:8.4 mg/dL, Mg++:2.4 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 PULMONARY EMBOLISM (PE), ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEIZURE, WITH STATUS EPILEPTICUS
   18 yoF with complicated neurologic history & demyelinating disease,
   hospital course complicated by b/l PE without hemodynamic compromise,
   as well as coag neg staph bactermia.  Transferred to the ICU  for
   tachycardia to 160 and desaturations to mid 80's in setting of likley
   agitation and observation peri-intubation for procedure (MRI).
   (#) TACHYCARDIA: has has sinus tach in the 120-130's since arriving to
   the ICU, with spikes to the 150-160's during agitation and convulsive
   type activity.  Many possible physiologic underlying causes including
   bilateral PE, bacteremia (Tmax 100.4, increasing WBC), anxiety ,
   agitation, and convulsive activity.   No evidence of volume depletion
   on exam or labs.  Last TSH nml on [**10-25**].
   -- cont clonazepam for anxiety; frequent reassurance may help though pt
   not able to speak back.
   -- continue treatment of bacteremia with vancomycin
   -- cont treatment of PE with heparin ggt
   (#) DESATURATION: resolved; in mid to upper 90's on room air; satted
   briefly while aggitated; tolerated placement of CVL while flat fairly
   well.  No evidence of PNA or extension of PE's currently.  Had another
   brief episode unsustained episode of desat to 60s unprovoked lasting
   seconds.
   -- cont to treat PE
   -- cont to monitor
   (#) MS, ENCEPHALOPATHY: no clear cause; intermittently seizing; obvious
   CNS infections have been ruled out on LP; JCV and HIV also negative; sx
   been progressively getting worse since being here.  Possibly a delirium
   from hospitalization/pain/anxiety on top of underlying neuro process,
   though pt fairly young and not considered high risk for hospital
   delirium.  no gross elecrolyte or lab abnormalities.
   -- rept MRI scheduled for Wed AM , intubation by anesthesia (pt
   requires general anesthesia), call OR/PACU floor manager/MRI
   -- psych and neuro following
   -- zyprexa PRN for aggitation
   -- f/u pending ID tests
   (#) DEMYELINATING DISEASE NOS: being followed by neurology; does not
   have clear diagnosis
   -- neurology wanted repeat MRI under GA (given aggiation); per
   scheduling tech, next available is Monday [**11-13**]
   -- continue solumderol 125 mg QID taper per neuro
   -- FSG QID + SSI PRN while on solumedrol
   (#) PE's:
   -- on heparin ggt now that access has been re-established, last PTT
   94.5
   -- will need coumadin 3-6 months
   -- f/u anti-phospholipid (anti-cardiolipin, lupus anticoagulant,
   anti-B2 microglobulin)
   (#) HTN: listed as a prior dx in H&P, thoguh not on home med list; BP
   has been ~150/80 since being in the ICU
   -- on metoprolol 75 [**Hospital1 **], increase to 75 tid and follow, HR will
   tolerate
   (#) COAG NEG STAPH BACTERMIA: PICC was pulled for concern of line
   infection.
   -- continue vancomycin, follow q 4dose trough (every other day), Day 1
   = [**11-9**], Day [**7-23**]
   -- will check trough before next 4th dose
   -- ID recs
   -- f/u pending cultures
   (#) SEIZURE: dilantin currently at tx levels; albumin normal.  Seizures
   seem to be the genralize tonic clonic type (witnessed during ICU
   stay).  Seizures are frequent movements small twitches or jerking
   movements of facial muscles or upper and lower extremities.
   -- cont dilantin 200/300
   -- ativan PRN for seizure with concern for injury
   -- seizure precautions
   -- neurology and psych following
   (#) ACCESS: ICU team placed left IJ
   (#) NUTRITION: holding TF since MN.
   (#) PPX: heparin ggt; protonix; on bowel regimen
   (#) CODE: full
   (#) CONTACT: parents; mother signed ICU consent on arrival to the ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2180-11-11**] 05:33 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2180-11-15 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Intubated for MRI at 3pm
   - MRI brain and full spine.. results pending.
   - ID recs cont vanco, check trough 20 minutes prior to 4th dose.
   Course to end [**11-22**].  Pan culture if spikes.
   - Neuro recs/Psych recs - no new recs
   - ASSIST --> PSV
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2180-11-15**] 12:06 AM
   Infusions:
   Heparin Sodium - 1,350 units/hour
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2180-11-14**] 07:42 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-11-15**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 37.5
C (99.5
   HR: 112 (106 - 126) bpm
   BP: 146/84(98) {126/75(88) - 156/101(109)} mmHg
   RR: 18 (14 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 112.7 kg (admission): 115.8 kg
   Height: 64 Inch
             Total In:
                                                                  1,508 mL
                                                                    613 mL
   PO:
             TF:
   IVF:
                                                                  1,208 mL
                                                                    613 mL
   Blood products:
   Total out:
                                                                  2,710 mL
                                                                  2,175 mL
   Urine:
                                                                  2,710 mL
                                                                  2,175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,202 mL
                                                                 -1,562 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 355 (355 - 402) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: ///32/
   Ve: 7.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   318 K/uL
   9.2 g/dL
   244 mg/dL
   0.7 mg/dL
   32 mEq/L
   4.3 mEq/L
   11 mg/dL
   105 mEq/L
   143 mEq/L
   28.7 %
   10.4 K/uL
        [image002.jpg]
                             [**2180-11-12**]  02:20 AM
                             [**2180-11-13**]  02:39 AM
                             [**2180-11-14**]  02:58 AM
                             [**2180-11-15**]  02:11 AM
   WBC
   9.2
   10.6
   12.7
   10.4
   Hct
   31.6
   30.3
   30.4
   28.7
   Plt
   272
   282
   332
   318
   Cr
   0.6
   0.6
   0.6
   0.7
   Glucose
   136
   120
   121
   244
   Other labs: PT / PTT / INR:13.9/79.8/1.2, ALT / AST:67/22, Alk Phos / T
   Bili:49/0.2, Ca++:9.0 mg/dL, Mg++:2.6 mg/dL, PO4:5.6 mg/dL
   Microbiology: PICC line from [**11-8**] growing Coag negative staph
   (methicillin sensitive)
   Assessment and Plan
   Assessment and Plan
   18 yoF with complicated neurologic history & demyelinating disease,
   hospital course complicated by b/l PE without hemodynamic compromise,
   as well as coag neg staph bactermia.  Transferred to the ICU  for
   tachycardia to 160 and desaturations to mid 80's in setting of likley
   agitation and observation peri-intubation for procedure (MRI).
   (#) MS, ENCEPHALOPATHY: no clear cause; intermittently seizing; obvious
   CNS infections have been ruled out on LP; JCV and HIV also negative; sx
   been progressively getting worse since being here.  Possibly a delirium
   from hospitalization/pain/anxiety on top of underlying neuro process,
   though pt fairly young and not considered high risk for hospital
   delirium.  no gross elecrolyte or lab abnormalities.
   -- was intubated yesterday and went for MRI: results pending today.
   -- psych and neuro following: no new recs
   -- zyprexa PRN for aggitation
   -- f/u pending ID panel of tests
   -- check urine tox
   (#) TACHYCARDIA: has has sinus tach in the 120-130's since arriving to
   the ICU, with spikes to the 150-160's during agitation and convulsive
   type activity.  Many possible physiologic underlying causes including
   bilateral PE, bacteremia (Tmax 100.4, increasing WBC), anxiety ,
   agitation, and convulsive activity.   No evidence of volume depletion
   on exam or labs.  Last TSH nml on [**10-25**].
   -- cont clonazepam for anxiety; frequent reassurance may help though pt
   not able to speak back.
   -- continue treatment of bacteremia with vancomycin: course ends [**11-22**]
   -- cont treatment of PE with heparin ggt
   - echo was grossly normal
   (#) DEMYELINATING DISEASE NOS: being followed by neurology; does not
   have clear diagnosis
   -- pending MRI results
   -- continue solumderol 150 [**Hospital1 **] taper per neuro
   -- FSG QID + SSI PRN while on solumedrol
   (#) PE's:
   -- on heparin ggt now that access has been re-established, last PTT
   94.5
   -- will need coumadin 3-6 months
   -- f/u anti-phospholipid (anti-cardiolipin, lupus anticoagulant,
   anti-B2 microglobulin)
   (#) HTN: listed as a prior dx in H&P, thoguh not on home med list; BP
   has been ~150/80 since being in the ICU
   -- on metoprolol 75 [**Hospital1 **], increase to 75 tid and follow, HR will
   tolerate
   (#) COAG NEG STAPH BACTERMIA: PICC was pulled for concern of line
   infection.
   -- continue vancomycin, follow q 4dose trough (every other day), Day 1
   = [**11-9**], Day [**7-23**]
   -- will check trough before next 4th dose
   -- ID recs
   -- f/u pending cultures
   (#) SEIZURE: dilantin currently at tx levels; albumin normal.  Seizures
   seem to be the genralize tonic clonic type (witnessed during ICU
   stay).  Seizures are frequent movements small twitches or jerking
   movements of facial muscles or upper and lower extremities.
   -- cont dilantin 200/300
   -- f/u dilantin level
   -- bedside EEG today
   -- seizure precautions
   -- neurology and psych following
   (#) ACCESS: ICU team placed left IJ
   (#) NUTRITION: holding TF since MN.
   (#) PPX: heparin ggt; protonix; on bowel regimen
   (#) CODE: full
   (#) CONTACT: parents; mother signed ICU consent on arrival to the ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2180-11-11**] 05:33 PM
   20 Gauge - [**2180-11-14**] 07:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2180-11-16 11:47:00 Physician Attending Progress Note
Chief Complaint: Altered Mental Status
   Seizure disorder
   Pulmonary Emboli
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EEG - At [**2180-11-15**] 03:04 PM
 INVASIVE VENTILATION - STOP [**2180-11-15**] 05:20 PM
 FEVER - 101.3
F - [**2180-11-15**] 04:00 PM
   MRI--Multiple demyelinating insults seen concerning for MS.  In
   spine--patient in psoas and paraspinal muscles concern for hematoma or
   abscess seen
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2180-11-16**] 09:31 AM
   Infusions:
   Heparin Sodium - 1,350 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2180-11-15**] 12:20 PM
   Metoprolol - [**2180-11-15**] 04:45 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2180-11-16**] 11:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.1
C (100.6
   HR: 123 (105 - 150) bpm
   BP: 163/89(109) {103/57(69) - 163/102(110)} mmHg
   RR: 35 (17 - 46) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 112.7 kg (admission): 115.8 kg
   Height: 64 Inch
             Total In:
                                                                  3,031 mL
                                                                  1,274 mL
   PO:
             TF:
             255 mL
   IVF:
                                                                  2,401 mL
                                                                    720 mL
   Blood products:
   Total out:
                                                                  3,165 mL
                                                                  1,100 mL
   Urine:
                                                                  3,165 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -134 mL
                                                                    174 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 407 (407 - 434) mL
   PS : 12 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 17 cmH2O
   SpO2: 98%
   ABG: ///30/
   Ve: 7.7 L/min
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Not assessed, This morning no response to verbal stimuli
in lower
   extremities
patient has 2 beats of clonus and normal reflextes
   bilaterally
   Labs / Radiology
   8.4 g/dL
   342 K/uL
   104 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.0 mEq/L
   10 mg/dL
   102 mEq/L
   139 mEq/L
   27.1 %
   13.9 K/uL
        [image002.jpg]
                             [**2180-11-12**]  02:20 AM
                             [**2180-11-13**]  02:39 AM
                             [**2180-11-14**]  02:58 AM
                             [**2180-11-15**]  02:11 AM
                             [**2180-11-16**]  04:29 AM
   WBC
   9.2
   10.6
   12.7
   10.4
   13.9
   Hct
   31.6
   30.3
   30.4
   28.7
   27.1
   Plt
   272
   282
   332
   318
   342
   Cr
   0.6
   0.6
   0.6
   0.7
   0.6
   Glucose
   136
   120
   121
   244
   104
   Other labs: PT / PTT / INR:14.5/85.1/1.3, ALT / AST:67/22, Alk Phos / T
   Bili:49/0.2, Ca++:8.7 mg/dL, Mg++:2.4 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   18 yo with demyelinating disorder and severe progression of loss of
   mental status with hospital course compliacted by PE and GPC
   bacteremia.  She has had persistent worsening of mental status and
   function without clearly defined etiology and with concerning findings
   on MRI scan completed.
   1)Altered Mental Status-This is complicated by underlying disorder
   which remains incompletely defined as well as significant insult from
   recurrent seizure activity.
   -Continue with seizure Rx
   -Avoid sedating medications
   -no evidence of infection
   -MRI completed and we will look to neurology input for guidance as to
   how this study adds to understanding
   -Zyprexa held
   -Do need neurology input to guide path moving forward for family
   2)Seizure Disorder-
   -Dilantin by levels to continue
   3)Pulmonary Emboli
   -Heparin IV to continue
   4)Sepsis
coag negative staph bacteremia
   -Vanco to continue
   -Will check CXR, Urine and blood again
   -The problem is there is concern for possible hemorrhagic abscess in
   psoas
there is concern for infection there and will need to be
   discussed with radiology and pursue next best study.  Concern is raised
   for possible areas of hematoma from previous tap.
   -This will be imaged given findings of persistent fevers at this time
   with resting tachycardia
   ICU Care
   Nutrition:
   Replete (Full) - [**2180-11-16**] 03:00 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2180-11-11**] 05:33 PM
   20 Gauge - [**2180-11-14**] 07:53 PM
   Prophylaxis:
   DVT: Heparin IV
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 40 minutes